US08809525B2
6-(3-Fluoro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (193 mg, 32%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and 3-fluoro-5-methoxy phenylboronic acid (0.37 g, 2.19 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-fluoro-5-methoxy phenylboronic acid | 2.19 mmol, 0.37 g | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
product | 6-(3-Fluoro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 193 mg, 32% | FC=1C=C(C=C(C1)OC)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C16H13FN4O
